US06130338
To a solution containing 35.4 g (0.4 mol) of cis-2-butene-1,4-diol, 83.8 g (0.8mol) of triethylamine, and 416.6 g of ethyl acetate in a round flask reactor, methanesulfonyl chloride was added dropwise with stirring for 30 min. at about 5° C. using an ice-bath. After addition, the mixture was allowed to react with stirring for 2 hours at room temperature. To the mixture, 171.7 g (1.6 mol) of benzylamine was added continuously dropwise with stirring for 30 min. at ambient temperature. After 2 hours of stirring, the crystallized solid was removed by filtration; 42.0 g of 35% HCl (aq) was added to the filtrate, and then excess benzylamine hydrochloride was removed by filtration or extraction. After the solvent was evaporated under reduced pressure, 52.2 g of 1-benzyl-3-pyrroline (yield 82.0%) was obtained.

reactant | cis-2-butene-1,4-diol | 0.4 mol, 35.4 g | C(\C=C/CO)O | C4H8O2
reactant | triethylamine | 0.8mol, 83.8 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | benzylamine | 1.6 mol, 171.7 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ethyl acetate | 416.6 g | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-3-pyrroline | 52.2 g, yield 82.0% | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
